US09162987B2
4-Iodo-6-(3-hydroxymethylphenyl)pyrimidine (ACT-MIF-023)
The compound was prepared according to Example 1 using 3-tert-butyloxymethylphenylboronic acid and 4,6-dichloropyrimidine. The resultant chloro compound was converted to iodo with hydroiodic acid as described in the general procedure.

reactant | 3-tert-butyloxymethylphenylboronic acid | C(C)(C)(C)OCC=1C=C(C=CC1)B(O)O | C11H17BO3
reactant | 4,6-dichloropyrimidine | ClC1=NC=NC(=C1)Cl | C4H2Cl2N2
reactant | hydroiodic acid | I | HI
product | 4-Iodo-6-(3-hydroxymethylphenyl)pyrimidine | IC1=NC=NC(=C1)C1=CC(=CC=C1)CO | C11H9IN2O
